US08071592B2
1-(2-{4-[(3,4-dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride
A mixture of 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-1,5-naphthyridin-2(1H)-one dihydrochloride (145 mg, 0.399 mmol) in chloroform (5 ml) and MeOH (0.1 ml) was treated with triethylamine (161 μl, 1.162 mmol) and stirred for 0.25 h before addition of 3,4-dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144, Example 126(e)) (59 mg, 0.363 mmol). The reaction was stirred for 0.5 h before addition of NaBH(OAc)3 (231 mg, 1.089 mmol). The reaction was stirred for 0.5 h before addition of sat. aq NaHCO3 (50 ml). The reaction was then extracted with 20% MeOH in DCM (3×200 ml). The combined organic phases were dried, evaporated and the crude residue purified by chromatography on silica gel using a 0-20% MeOH/DCM gradient to provide the free base of the title compound (132 mg, 76%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-7-fluoro-1,5-naphthyridin-2(1H)-one dihydrochloride | 0.399 mmol, 145 mg | Cl.Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)F)=O
reactant | triethylamine | 1.162 mmol, 161 μl | C(C)N(CC)CC | C6H15N
reactant | 3,4-dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde | O1CCCC=2C1=CN=C(C2)C=O | C9H9NO2
reactant | NaBH(OAc)3 | 1.089 mmol, 231 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 0.1 ml | CO | CH4O
product | 1-(2-{4-[(3,4-dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethyl)amino]-1-piperidinyl}ethyl)-7-fluoro-1,5-naphthyridin-2(1H)-one hydrochloride | 132 mg, 76% | Cl.O1CCCC=2C1=CN=C(C2)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)F)=O | InChI=1S/C24H28FN5O2.ClH/c25-18-13-22-21(28-14-18)3-4-24(31)30(22)10-9-29-7-5-19(6-8-29)26-15-20-12-17-2-1-11-32-23(17)16-27-20;/h3-4,12-14,16,19,26H,1-2,5-11,15H2;1H
